US04526893
A mixture consisting of 35 g of 4-nitrophenol, 35 g of chloroacetone, 35 g of potassium carbonate, 1 g of potassium iodide and 500 ml of acetone was heated at reflux with stirring for 3 hr. Reaction mixture was concentrated underd reduced pressure; the concentrate was extracted with ethyl acetate; the ethyl acetate layer was washed consecutively with 5% aqueous solution of sodium hydroxide, water and saturated saline; and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure; the residue was dissolved in 300 ml of ethanol, added with 100 ml of n-hexane; and subsequently left standing overnight at room temperature. Yellow crystals thus isolated were filtered off, dried and yielded 43.5 g of 4-nitrophenoxyacetone.

reactant | 4-nitrophenol | 35 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | chloroacetone | 35 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 35 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 1 g | [I-].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-nitrophenoxyacetone | 43.5 g | [N+](=O)([O-])C1=CC=C(OCC(C)=O)C=C1 | C9H9NO4
